US08420678B2
Ethyl 2-(5-(4-Acetamidophenylsulfonamido)-1,3,4-thiadiazol-2-yl)acetate (118E).
To a solution of p-acetamidobenzenesulfonyl chloride (275 mg, 1.18 mmol) in pyridine (5 mL) was added ethyl 2-(5-amino-1,3,4-thiadiazol-2-yl)acetate (200 mg, 1.07 mmol). The reaction mixture was stirred at room temperature for 4.5 h, then 2 M HCl (10 mL) was added to quench the reaction. The mixture was extracted with ethyl acetate (3×50 mL). The organic extracts were washed with water (20 mL), brine (20 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography over silica gel (70-230 mesh) eluted with CH2Cl2:methanol 19:1 to give the product as a solid, mp 156-157° C., in 76% yield (312 mg, 0.81 mmol); 1H NMR (300 MHz, DMSO-d6) δ 1.20 (t, 3H, J=7.0 Hz), 2.07 (s, 3H), 4.06 (s, 2H), 4.15 (q, 2H, J=7.0 Hz), 7.72 (m, 4H), 10.29 (s, 1H); 13C NMR (75 MHz, DMSO-d6) δ 14.0, 24.1, 35.7, 61.3, 118.6, 127.0, 135.5, 142.9, 151.6, 167.8, 168.1, 169.0; MS (LCQ, ESI+) Calcd for C14H17N4O5S2 385.1, found 385.1 (M+H)'; HRMS (ESI+, m/z) Calcd for C14H17N4O5S2 385.0640, found 385.0638 (M+H)+.

reactant | p-acetamidobenzenesulfonyl chloride | 1.18 mmol, 275 mg | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | ethyl 2-(5-amino-1,3,4-thiadiazol-2-yl)acetate | 1.07 mmol, 200 mg | NC1=NN=C(S1)CC(=O)OCC | C6H9N3O2S
reactant | HCl | 2 M, 10 mL | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-(5-(4-Acetamidophenylsulfonamido)-1,3,4-thiadiazol-2-yl)acetate | 76% yield | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=NN=C(S1)CC(=O)OCC | C14H16N4O5S2
